US04101660
To a well stirred suspension of 20.6 g of 4-chlorophenacylamine hydrochloride in 70 ml of benzene and 70 ml of water which was cooled to below 7° C were added simultaneously 110 ml of 2N NaOH solution and 12.4 g of chloroacetyl chloride dissolved in 30 ml of benzene. After the addition was complete, the reaction mixture was warmed to room temperature and stirred at room temperature for 3 hours. At the end of this period, the formed precipitate was filtered, and the benzene layer was separated. The aqueous layer was extracted twice with 50 ml of benzene. The combined benzene layer was dried over anhydrous sodium sulfate, and evaporated to dryness. The residue together with the precipitate obtained above was combined and recrystallized from ethanol to give 14.1 g (57 percent) of N-(4-chlorophenacyl) chloroacetamide.

reactant | 4-chlorophenacylamine hydrochloride | 20.6 g | Cl.ClC1=CC=C(C(CN)=O)C=C1
reactant | NaOH | 2N, 110 ml | [OH-].[Na+]
reactant | chloroacetyl chloride | 12.4 g | ClCC(=O)Cl | C2H2Cl2O
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
solvent | water | 70 ml | O | H2O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | N-(4-chlorophenacyl) chloroacetamide | 14.1 g, 57 percent | ClC1=CC=C(C(CNC(CCl)=O)=O)C=C1 | C10H9Cl2NO2
